US06734184B1
Sodium-t-butoxide (4.1 g) was added to a solution of tir-tolylphosphine (0.638 g) and palladium acetate (0.319 g) in toluene (250 mL) under argon and the mixture was stirred for 20 minutes. 4-Fluoro-bromobenzene (5 g) and 2-methylpiperazine (2.85 g) were added and the mixture was heated at 110° C. for 7 hours, then allowed to cool to ambient temperature and keep at this temperature for 20 hours. The reaction mixture was filtered through Celite®, the filter cake was washed twice with dichloromethane (2×25 mL) and the filtrate was evaporated to dryness. The residue was chromatographed on silica eluting initially with dichloromethane and then with a mixture of dichloromethane, methanol and ammonium hydroxide (100:5:1) to give 2-methyl-4-(4-fluorophenyl)-piperazine, 2.5 g.

reactant | Sodium-t-butoxide | 4.1 g | CC(C)([O-])C.[Na+]
reactant | 4-Fluoro-bromobenzene | 5 g | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | 2-methylpiperazine | 2.85 g | CC1NCCNC1 | C5H12N2
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.319 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-methyl-4-(4-fluorophenyl)-piperazine | CC1NCCN(C1)C1=CC=C(C=C1)F | C11H15FN2
